US05087790
In a standard procedure, methyllithium (2 equivalents) was added to an ice-cooled suspension of Cp2TiCl2 in dry ether (15 ml per gram of Cp2TiCl2). After stirring for one half hour, a small amount of water was added to quench the reaction. The contents were transferred to a separatory funnel and the orange organic layer washed once with water. Drying with anhydrous MgSO4, filtration, and removal of the solvent with a rotary evaporator provided bright orange crystals of dimethyl titanocene. Yields are typically greater then 95%. Due to its thermal instability and light sensitivity over time in the solid form, this compound is best stored as a 0.5M tetrahydrofuran or toluene solution kept in the dark, and preferably cold. The compound can be exposed to water during the normal workup procedure or to air during weighing and handling. Moreover, the reagent can be stored in the dark as, e.g., a toluene or THF solution for several months without significant decomposition, as indicated by NMR

reactant | methyllithium | 2 equivalents | C[Li]
reactant | Cp2TiCl2 | [CH-]1C=CC=C1.[CH-]1C=CC=C1.Cl[Ti]Cl
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | dimethyl titanocene | C[C-]1C=CC=C1.[C-]1(C=CC=C1)C.[Ti+2] | InChI=1S/2C6H7.Ti/c2*1-6-4-2-3-5-6;/h2*2-5H,1H3;/q2*-1;+2
